data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1025,"COC(=O)C1C(C2=CC=CC=C2)NC(=O)[N:1](C)[C:2]1(C1=CC=CC=C1)[OH2+:3].O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8151,"C1CC2C(C1)[O:1]2.CC(C)[N](C(C)C)[Li:2]|(1, 2)"
train,pmechdb_split_0,0,10073,"CC(C)=C[CH2+:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCC[C:2]1=[CH:3]C(O)=C[C:4]([OH:5])=[CH:6]1.O|(5, 4);((4, 6), 2);((2, 3), 1)"
train,pmechdb_split_0,0,4107,"C1C[N:1]2CCN1CC2.[O-]C(C1CCCCC1)[C:2]1([H:3])C([N+]2=C3CCCCCN3CCC2)CCC[C:4]1=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7240,"CCO[C+:1](C(CCC1=CC=CC=C1)[O][Al-:2]([CH3])([CH3])[CH3:3])C(F)(F)C(F)(F)F|((2, 3), 1)"
train,pmechdb_split_0,0,7424,"C=C(C)C[Si](C)(C)C.COC(C1=CC=CC=C1)[O+](C)[Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,5788,"CCOC[C:1](NC1=C([NH:2]CC(C)(C)O)C2=C(C=CC=C2)N=C1N)=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7728,"C[CH:1]([H:2])[O:3][S+:4](C)[CH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1844,"CC(C)C(C(=O)O)[NH+:1]=[C:2](CCC1(C)C(=O)CCC1=O)[CH:3](C)[H:4].CC(C)C(N)C(=O)[O-:5].O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1423,"COC(=O)CCC(C(C)=O)C(C)[CH:1]([NH2:2])[OH2+:3].N.O=C([O-])O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9627,"CC(=O)CCC(C)(NC1=C(Br)C=CC=C1)[OH:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7762,"CC1CCCCC1(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6208,"C1=CC=[N+:1]([H:2])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C12CCC(CC1(NCC1=CC=CC=C1)[OH:3])C2(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1302,"CO[C:1]1=[CH:2][CH:3]=[CH:4]C([N+](=O)[O-])=C1.[Br:5][Br:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,9893,"CC[C+:1]1CCCC(C)C1.CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,6240,"C=C(C)[N:1]1CCCC1.CCNC(=O)CCC[C:2]([CH2:3][H:4])=[N+:5]1CCCC1|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,7395,"CCOC(=O)C(C[C:1](Br)=[C:2](C)[O-:3])[N+](=O)[O-].O=C([O][Na])[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1854,"CC1=CC2=C(C=C1)[C:1](=[OH+:2])C1(OCC[O:3][B-](F)(F)F)CCC(C)CCC21.CC[SiH](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5855,"CC1=CC=C(S(=O)(=O)[O-])C=C1.ClC1=CC=CC(Cl)=C1[NH:1][C:2]1=[C:3]([CH2:4][OH2+:5])C=CC=C1|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9965,"C[C+:1]=O.N#CC1=C[CH:2]=[CH:3]O1|((2, 3), 1)"
train,pmechdb_split_0,0,3046,"C1CS[CH:1]([Li:2])SC1.C[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8407,"CC1=C(C(=O)OCC2=CC=CC=C2)CC(C2=CC=CC=C2)([OH:1])O1.O=S(=O)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9695,"C[Si-:1](C)(C)(F)[O:2]CC[CH2][Mg][Br]|((1, 2), 2)"
train,pmechdb_split_0,0,8807,"CC(=O)[O-:1].CC(C=[O+][Si:2](C)(C)C)CC1CCCCCC1|(1, 2)"
train,pmechdb_split_0,0,9616,"C1CCOC1.CCC1(O)C(=O)OCC2=C1C=C1N(CCC1(O)[O:1]CCO)C2=O.O.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5607,"CC(Br)[C:1](C1=CC=CC=C1)=[O+:2]CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6098,"CN[CH:1]=[N+:2](C)C.C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2435,"C=C(C)CC1C=C([O:1][Si-](C)(C)(C)C)CC(C)C1.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,2156,"CC1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6507,"CC(=O)[O:1][H:2].CC(C)(C)CC(=O)CC#N.CC1=CC=C(C([NH+]2CCCCC2)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6299,"CC(=O)O.O.O=[N+]([O-])CCCC=[N+]1CCCC[CH:1]1[C:2](=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9123,"C1=CC=CC=C1.C1CCNC1.C1CC[C:1]([N:2]2CCCC2)([OH:3])CC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4393,"CC[C:1]1([H:2])CCCC(C)[CH:3]1[Cl:4].[NH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5860,"CS(=O)(=O)C1=CC=C(C2=CC=C([N:1]=[N:2][OH2+:3])C=C2)C=C1.O.O=S(=O)([O-])[O-].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3407,"CCO.CC[O+:1]=[CH:2]CNC(COCC1=CC=CC=C1)C1=C2OCOC2=C(C)[C:3]([O:4]C)=[CH:5]1.O.[Cl-]|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8959,"CC(=O)C1=C([NH2:1])C=CC=C1.O=C(O)C(F)(F)F.O=C1NC(CC2=CC=CC=C2)[C:2](=[O:3])O1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,767,"CC1=CC=C([S-](=O)=O)C=C1.CC1C2CCC3C(C)(C)C(O[Si](C)(C)C(C)(C)C)CCC3(C)C2C[C:1](=[N+:2]=[N-:3])C1C.[H][H].[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,319,"C1=CC=C([OH:1])C=C1.O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2616,"CC(C)CCCCC(C(OC1=CC=CC=C1)C(=O)[O-])[OH:1].CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,9028,"CC(Br)[C:1]([CH:2](Br)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6872,"CC=[N:1]OC.[AlH4-].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,4540,"CC(=O)O.CC(=O)O[C:1](C)=[O:2].COC1=C(C)C=C(OCC(=O)[O-:3])C(C(C)=O)=C1.[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1293,"CCC(C)O[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1544,"COC1=C(C)C=C2CC3(C)C(O)CC[C:1](=[C:2]3[N:3]3CCCC3)C2=C1.[Cl-].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
